US04293548
A solution of 4.2 g of 18-ethynylpregn-4-ene-3,20-dione in 125 ml of methanol is cooled to 0° C. and 950 mg of sodium borohydride is added. The resulting mixture is stirred at 0° C. for 1 hour and then allowed to warm to room temperature over an additional hour. Acetic acid is then added and the solution is concentrated. The resulting residue is suspended in ethyl acetate, washed with water, aqueous sodium bicarbonate and brine and dried, and the solvent is evaporated. The residue is dissolved in 400 ml of chloroform, 42 g of activated manganese dioxide is added, and the resulting suspension is stirred for 24 hours. The inorganic solid is then removed by filtration through Celite and the filter cake is washed thoroughly with hot chloroform. The filtrate is then concentrated and the residue is purified by recrystallization from acetone/hexane to give 18-ethynyl-20-hydroxypregn-4-en-3-one.

reactant | 18-ethynylpregn-4-ene-3,20-dione | 4.2 g | C(#C)C[C@@]12CC[C@@H]3[C@]4(CCC(C=C4CC[C@H]3[C@@H]2CC[C@@H]1C(C)=O)=O)C | C23H30O2
reactant | sodium borohydride | 950 mg | [BH4-].[Na+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 125 ml | CO | CH4O
product | 18-ethynyl-20-hydroxypregn-4-en-3-one | C(#C)C[C@@]12CC[C@@H]3[C@]4(CCC(C=C4CC[C@H]3[C@@H]2CC[C@@H]1C(C)O)=O)C | C23H32O2
